US05955365
A. Spermidine Bis-Acridine
The scheme for directing nucleic acids to certain sites of the body is based upon the intercalation of a ligand which interacts with a cell surface component into the double stranded DNA. A procedure for selective N4 -acylation of spermidine, using N1,N8 -bis(t-butoxycarbonyl) spermidine as starting material, has been reported. R. J. Bergeron et al., Synthesis (1982) 689-692. We have used this procedure (FIG. 8) to link the acid functionalized galactosyl derivatives 9 (n=1) and 9' (n=4) to the secondary amino group of N1,N8 -tBOC-protected spermidine (15) and the resulting galactosylated spermidines 17 and 17' were, after deprotection, further alkylated with 9-phenoxyacridine by a standard chemical procedure to transform them into bis-intercalator compounds 21 and 21'. The synthesis of the carboxylic acid functionalized galactosyl derivatives is detailed (J. Haensler et al., Biochim Biophys Acta (1988) 946:95-105) and is easily applicable to a wide range of carbohydrate ligands (M. M. Ponpipom et al., J Med Chem (1981) 24:1388-1395). The title compounds were obtained in an overall yield of 30% and the NMR and mass spectrometry data are consistent with the proposed structure.

reactant | spermidine | NCCCCNCCCN | C7H19N3
reactant | 9-phenoxyacridine | O(C1=CC=CC=C1)C=1C2=CC=CC=C2N=C2C=CC=CC12 | C19H13NO
product | Spermidine Bis-Acridine | yield of 30% | C1=CC=CC2=NC3=CC=CC=C3C=C12.C1=CC=CC2=NC3=CC=CC=C3C=C12.NCCCCNCCCN | InChI=1S/2C13H9N.C7H19N3/c2*1-3-7-12-10(5-1)9-11-6-2-4-8-13(11)14-12;8-4-1-2-6-10-7-3-5-9/h2*1-9H;10H,1-9H2
